US09120777B2
E) tert-Butyl 4-(4-(benzyloxy)-2-oxopyridin-1(2H)-yl)piperidine-1-carboxylate
Potassium tert-butoxide (5.05 g) was added at room temperature to a DME (70 mL) solution of 4-(benzyloxy)pyridin-2(1H)-one (7.55 g). The reaction mixture was stirred at room temperature for 10 minutes. Then, potassium carbonate (10.4 g) and tert-butyl 4-(((4-methylphenyl)sulfonyl)oxy)piperidine-1-carboxylate (20.0 g) were added thereto, and the mixture was stirred at 100 C for 1 day in a nitrogen atmosphere. Then, DME (30 mL) was added thereto, and the mixture was further stirred during the weekend at 100 C. Saturated saline was added to the reaction mixture, followed by extraction with ethyl acetate twice. The obtained organic layer was washed with saturated saline and dried over anhydrous magnesium sulfate, and then, the solvent was distilled off under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate) to obtain the title compound (4.40 g).

reactant | Potassium tert-butoxide | 5.05 g | CC(C)([O-])C.[K+]
reactant | 4-(benzyloxy)pyridin-2(1H)-one | 7.55 g | C(C1=CC=CC=C1)OC1=CC(NC=C1)=O | C12H11NO2
reactant | potassium carbonate | 10.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | tert-butyl 4-(((4-methylphenyl)sulfonyl)oxy)piperidine-1-carboxylate | 20.0 g | CC1=CC=C(C=C1)S(=O)(=O)OC1CCN(CC1)C(=O)OC(C)(C)C | C17H25NO5S
solvent | DME | 30 mL | COCCOC | C4H10O2
solvent | DME | 70 mL | COCCOC | C4H10O2
product | tert-Butyl 4-(4-(benzyloxy)-2-oxopyridin-1(2H)-yl)piperidine-1-carboxylate | 4.40 g | C(C1=CC=CC=C1)OC1=CC(N(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C)=O | C22H28N2O4
